US05817882
[4R-[2(S*,S*),4α,5β]]-4,5-Dicyclohexyl-2-(2-ethyl-3,5-dimethylpenten-5-yl)-1,3,2-dioxaborolane (12a)
Methylmagnesium bromide (3.0 M in ether, 13.3 mL, 40 mmol) was added to a stirred solution of [4R-[2(S*,S*),4α,5β]]-4,5-dicyclohexyl-2-(5-chloro-2-ethyl-3-methylpenten-5-yl)-1,3,2-dioxaborolane (15.2 g, 40 mmol) in THF (250 mL) at -78° C. over a period of 20 min. The bath was allowed to warm to 20°-25° C. and the reaction mixture was stirred for 20 h. The solution was concentrated under vacuum and ether (200 mL) was added to the residue. The ethereal solution was washed with saturated aqueous ammonium chloride (2∞200 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum to liquid [4R-[2(S*,S*),4α,5β]]-4,5-dicyclohexyl-2-(2-ethyl -3,5-dimethylpenten-5-yl)-1,3,2-dioxaborolane (12a) (13.8 g, 96%); 300 MHz 1H-NMR (CDCl3) δ0.84-2.27 (m, 37), 3.81 (m, 2), 4.68 and 4.74 (AB, 2); 75 MHz 13C-NMR (CDCl3) 12.3, 16.2, 20.2, 25.9, 26.0, 26.4, 27.4, 28.28, 28.34, 39.2, 39.5, 43.0, 83.2, 106.7, 156.3). HRMS: calcd for C23H41BO2 (M+) 360.3200, found: 360.3199.

reactant | Methylmagnesium bromide | 40 mmol, 3.0 M, 13.3 mL | C[Mg]Br
reactant | 4,5-dicyclohexyl-2-(5-chloro-2-ethyl-3-methylpenten-5-yl)-1,3,2-dioxaborolane | 40 mmol, 15.2 g | C1(CCCCC1)C1OB(OC1C1CCCCC1)C(CC(C(=C)CC)C)Cl | C22H38BClO2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 4,5-Dicyclohexyl-2-(2-ethyl-3,5-dimethylpenten-5-yl)-1,3,2-dioxaborolane | C1(CCCCC1)C1OB(OC1C1CCCCC1)C(CC(C(=C)CC)C)C | C23H41BO2
